US07582781B2
1,2-Epoxy-2-(2,5-difluorophenyl)butan-3-ol
A solution of 1.70 g (5.3 mmol) of 1-chloro-2-(2,5-difluorophenyl)-3-(pivaloyloxy)butan-2-ol ((2S,3R)/(2R,3R)=94/6) in 20 mL of THF was cooled to 0° C., and 3.5 g (17.8 mmol) of a 28% solution of NaOMe in methanol was added thereto. The reaction was performed for 5 hours, and 20 mL of 1 M hydrochloric acid was added to stop the reaction. Then, extraction was performed with ethylacetate (30 mL). After drying over anhydrous sodium sulfate, concentration was performed under reduced pressure to obtain 1.51 g of a crude product. The resulting product was purified by column on silica gel to obtain 0.838 g of the title compound (yield: 79%) ((2R,3R)/(2S,3R)=98/2 (the diastereomeric ratio was measured by HPLC under the same HPLC measurement conditions as those in Example 10, (2R,3R) 32 minutes, (2S,3R) 30 minutes). 1H-NMR (400 MHz, CDCl3) (2R,3R) δ: 1.70 (d, 3H, J=6.6 Hz), 2.80 (d, 1H, J=5.1 Hz), 3.34 (d, 1H, J=5.1 Hz), 4.17 (q, 1H, 6.6 Hz), 6.98-7.00 (m, 2H), 7.14-7.26 (m, 1H)

reactant | 1-chloro-2-(2,5-difluorophenyl)-3-(pivaloyloxy)butan-2-ol | 5.3 mmol, 1.70 g | ClCC(C(C)OC(C(C)(C)C)=O)(O)C1=C(C=CC(=C1)F)F | C15H19ClF2O3
reactant | NaOMe | C[O-].[Na+]
reactant | hydrochloric acid | 1 M, 20 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1,2-Epoxy-2-(2,5-difluorophenyl)butan-3-ol | 0.838 g, yield: 79% | O1CC1(C(C)O)C1=C(C=CC(=C1)F)F | C10H10F2O2
